US07396844B1
Synthesis of 3-[(2S)-2-(benzenesulfonylamino)-3-[4-(1-benzyloxycarbonyl-4-piperidyloxy)phenyl]propoxy]-4-iodobenzonitrile
1.6 g (2.7 mmol) of 3-[(2S)-3-[4-(1-benzyloxycarbonyl-4-piperidyloxy)phenyl]-2-(t-butoxycarbonylamino)propoxy]-4-iodobenzonitrile was dissolved in 4 N solution of hydrogen chloride in dioxane, and the solution was stirred at room temperature overnight. The solvent was distilled off, and the residue was dissolved in dimethylformamide. 1 ml (6 mmol) of N,N-diisobutylethylamine and 0.34 ml (2.7 mmol) of benzenesulfonyl chloride were added to the solution under cooling with ice, and they were stirred for 2 hours. After the isolation process with ethyl acetate as the extractant in the same manner as that of step 1 in Example 1, the crude product was obtained, which was purified by the silica gel column chromatography to obtain the title compound.

reactant | 3-[(2S)-3-[4-(1-benzyloxycarbonyl-4-piperidyloxy)phenyl]-2-(t-butoxycarbonylamino)propoxy]-4-iodobenzonitrile | 2.7 mmol, 1.6 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C[C@@H](COC=1C=C(C#N)C=CC1I)NC(=O)OC(C)(C)C | C34H38IN3O6
reactant | N,N-diisobutylethylamine | 6 mmol, 1 ml | C(C(C)C)N(CC(C)C)CC | C10H23N
reactant | benzenesulfonyl chloride | 2.7 mmol, 0.34 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-[(2S)-2-(benzenesulfonylamino)-3-[4-(1-benzyloxycarbonyl-4-piperidyloxy)phenyl]propoxy]-4-iodobenzonitrile | C1(=CC=CC=C1)S(=O)(=O)N[C@H](COC=1C=C(C#N)C=CC1I)CC1=CC=C(C=C1)OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C35H34IN3O6S
